US04822801
Ethyl 5-Amino-8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate
A suspension of 21.7 g (58.2 mmol) of ethyl 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-5-nitro-4-oxo-3-quinolinecarboxylate in 300 ml of ethanol and 300 ml of tetrahydrofuran was catalytically reduced using 3 g of Raney nickel in a hydrogen atmosphere of 50 psi. After twelve hours the mixture was diluted with dichloromethane and the catalyst was removed by filtration. The filtrate was concentrated to give 17.2 g of the title compound.

reactant | ethyl 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-5-nitro-4-oxo-3-quinolinecarboxylate | 58.2 mmol, 21.7 g | ClC=1C(=C(C(=C2C(C(=CN(C12)C1CC1)C(=O)OCC)=O)[N+](=O)[O-])F)F | C15H11ClF2N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 3 g | [Ni] | Ni
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl 5-Amino-8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 17.2 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)Cl)C1CC1)C(=O)OCC)=O | C15H13ClF2N2O3
